US08211908B2
To a solution of 2.0 g of 5-hydroxy-2-((tetrahydro-2H-pyran-2-yloxy)methyl)-4H-pyran-4-one in 20 mL of dichloromethane, 2.1 mL of triethylamine was added, 1.9 mL of trifluoromethanesulfonic anhydride was dropped under cooling with ice, and the mixture was stirred for 40 minutes. Water and chloroform were added to the reaction mixture, the organic layer was separated, and the aqueous layer was extracted with chloroform. The resultant solution was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using an eluent of hexane:ethyl acetate=2:1 to obtain 2.9 g of 4-oxo-6-((tetrahydro-2H-pyran-2-yloxy)methyl)-4H-pyran-3-yl trifluoromethanesulfonate as a light brown solid.

reactant | 5-hydroxy-2-((tetrahydro-2H-pyran-2-yloxy)methyl)-4H-pyran-4-one | 2.0 g | OC=1C(C=C(OC1)COC1OCCCC1)=O | C11H14O5
reactant | trifluoromethanesulfonic anhydride | 1.9 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Water | O | H2O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | triethylamine | 2.1 mL | C(C)N(CC)CC | C6H15N
product | 4-oxo-6-((tetrahydro-2H-pyran-2-yloxy)methyl)-4H-pyran-3-yl trifluoromethanesulfonate | 2.9 g | FC(S(=O)(=O)OC1=COC(=CC1=O)COC1OCCCC1)(F)F | C12H13F3O7S
